US05438035
Preparation of 4-Tert-butyl-3,4-dihydro-7-[(trimethylsilyl)ethynyl]-1H-1,4-benzodiazepine-2,5-dione
(Trimethylsilyl)acetylene (1.18 mL, 8.4 mmol), copper(I) iodide (0.05 g, 0.28 mmol) and bis(triphenylphosphine)palladium(II) chloride (0.1 g, 0.14 mmol) are added sequentially to a degassed suspension of 4-tert-butyl-3,4-dihydro-7-iodo-1H-1,4-benzodiazepine-2,5-dione (2.5 g, 7.0 mmol) in triethylamine. The reaction mixture is stirred at room temperature for 5 hours and filtered. The filtrate is diluted with ether and concentrated in vacuo to obtain a solid. Chromatography of the solid using silica gel and 15% to 20% ethyl acetate in hexanes solutions gives the title product as a light brown solid (1.33 g, mp 243°-244° C.).

reactant | (Trimethylsilyl)acetylene | 8.4 mmol, 1.18 mL | C[Si](C)(C)C#C | C5H10Si
reactant | 4-tert-butyl-3,4-dihydro-7-iodo-1H-1,4-benzodiazepine-2,5-dione | 7.0 mmol, 2.5 g | C(C)(C)(C)N1CC(NC2=C(C1=O)C=C(C=C2)I)=O | C13H15IN2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | copper(I) iodide | 0.28 mmol, 0.05 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.14 mmol, 0.1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Tert-butyl-3,4-dihydro-7-[(trimethylsilyl)ethynyl]-1H-1,4-benzodiazepine-2,5-dione | 1.33 g | C(C)(C)(C)N1CC(NC2=C(C1=O)C=C(C=C2)C#C[Si](C)(C)C)=O | C18H24N2O2Si
